Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left breast cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with a history of right breast cancer s/p 
lumpectomy + XRT (___) who is now s/p symmetrizing left breast 
reduction on ___. The patient was seen ___ postoperative 
follow up on ___ at which time she was noted to have some 
___ erythema around the triple point of her 
incision. At that time, she was otherwise asymptomatic and the 
plan was to monitor her incision off antibiotics. Over the last 
two days, the patient has noticed progressively worsening pain 
and swelling of the left breast. Patient reports that she spiked 
a fever of 101 last night which climbed to 103 this morning 
despite Tylenol. She denies nausea, vomiting, diarrhea or 
dysuria. She denies shortness of breath or difficulty breathing. 
The patient spoke with Dr. ___ PA this morning and was 
referred to the emergency department for further
evaluation.

 
Past Medical History:
 Right breast cancer s/p lumpectomy, chemo + XRT
 Thoracic nerve pain secondary to radiation
 Herceptin induced cardiomyopathy (followed by Dr. ___ at ___, 
EF
 55% on last echo ___
 HTN
 ___'s thyroiditis
 HLD
 GERD
.
 PSH:
 Left reduction mammoplasty ___
 Right lumpectomy ___
 Lipoma excision
 Back surgery
 Tonsillectomy
 Vein ligation
 Hysterectomy
 Open cholecystectomy ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Gen: NAD, A&Ox3, lying on stretcher.
 HEENT: Normocephalic. Atraumatic. No edema or ecchymosis. 
PERRL,
 EOMI. Visual acuity at baseline. No red color desaturation. No
 nasal septal hematoma. No rhinorrhea. Tongue midline. Dentition
 grossly intact. No malocclusion. Sensation grossly intact and
 symmetric ___ V1, 2, 3 distributions. VII function grossly 
intact
 and symmetric. No tenderness to palpation. No bony step-offs.
 Midface stable.
 CV: RRR
 R: Breathing comfortably on room air. No wheezing.
 Ext: WWP. Palpable radial, DP bilaterally. No ___ edema. 2 
second
 capillary refill ___ all digit tips. Makes a full composite 
fist.
 Wrist flexion, extension, radial and ulnar deviation, pronation
 and supination full. MCP, PIP, DIP flexion and extension full.
 Sensation grossly intact ___ median, ulnar, and radial
 distributions.

 
Pertinent Results:
ADMISSION LABS:
___ 03:30PM URINE  HOURS-RANDOM
___ 03:30PM URINE  UHOLD-HOLD
___ 03:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:30PM URINE  RBC-1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 03:30PM URINE  HYALINE-3*
___ 03:30PM URINE  MUCOUS-RARE*
___ 01:34PM   LACTATE-1.7
___ 01:20PM   GLUCOSE-130* UREA N-17 CREAT-1.1 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-21* ANION GAP-15
___ 01:20PM   estGFR-Using this
___ 01:20PM   WBC-13.5* RBC-4.25 HGB-12.9 HCT-37.1 MCV-87 
MCH-30.4 MCHC-34.8 RDW-12.3 RDWSD-39.5
___ 01:20PM   NEUTS-87.9* LYMPHS-2.4* MONOS-6.9 EOS-1.8 
BASOS-0.3 IM ___ AbsNeut-11.87* AbsLymp-0.33* 
AbsMono-0.93* AbsEos-0.24 AbsBaso-0.04
___ 01:20PM   PLT COUNT-173
___ 01:20PM   ___ PTT-27.3 ___
.
MICROBIOLOGY:
___ 2:17 pm SWAB      Source: lt breast seroma. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
.
___ 3:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
.
___ 4:52 am SWAB     Site: BREAST
      Source: L breast inferior aspect,suture line. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ANAEROBIC CULTURE (Preliminary): 
.
IMAGING:
Radiology Report US BREAST UNILATERAL LIMITED LEFT Study Date of 
___ 12:33 ___ 
IMPRESSION: 
6.0 cm fluid collection ___ the left breast, possibly 
representing a 
postoperative seroma. 
.
Radiology Report US BREAST UNILATERAL LIMITED LEFT Study Date of 
___ 8:55 AM 
IMPRESSION:  
No drainable fluid collections. Aspiration was not performed. 

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ for observation and treatment of a left breast 
cellulitis. Patient underwent an ultrasound guided needle 
aspiration of fluid pocket.  An 18G needle was directed into the 
seroma cavity under ultrasound guidance. 20mL of thin, brownish 
fluid was aspirated. Specimen sent for gram stain and culture. 
Patient tolerated the procedure well. 
 .
 Neuro: The patient received pain medication as needed with good 
relief reported. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 ID: The patient was started on IV ancef and IV vancomycin, then 
switched to PO dicloxacillin once the culture data revealed 
pan-sensitive staph aureus. The patient's temperature was 
closely watched for signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on hospital day#3, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  Left breast erythema receding and breast 
actively draining.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Anastrozole 1 mg PO DAILY 
2. Carvedilol 6.25 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
2.  DiCLOXacillin 500 mg PO Q6H 
RX *dicloxacillin 500 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*40 Capsule Refills:*0 
3.  Gabapentin 600 mg PO QAM  
4.  Gabapentin 900 mg PO BID  
5.  Anastrozole 1 mg PO DAILY  
6.  Carvedilol 6.25 mg PO DAILY  
7.  Levothyroxine Sodium 112 mcg PO DAILY  
8.  Lisinopril 10 mg PO DAILY  
9.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left breast cellulitis/abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for observation/treatment of a left 
breast cellulitis.  Please follow these discharge instructions:
 .
 -Continue to monitor your left breast area for continued 
improvement.  If the redness, swelling and/or drainage increase, 
please call the doctor's office to report this.
 -Should you have fevers and chills, please call the doctor's 
office immediately to report.
 -Continue your antibiotics until they are finished.  
 -You may consider eating a probiotic yogurt daily to replace 
the 'good' bacteria ___ your intestinal tract.  If you cannot 
tolerate yogurt then you may buy 'acidophilus' over the counter 
as a supplement choice.  Acidophilus is a 'friendly' bacteria 
for your gut.
 -If you start to experience excessive diarrhea, please call the 
doctor's office to report this.
 -Do not overexert yourself and no strenuous exercise for now.
 -You may take either tylenol or advil (ibuprofen) for your 
discomfort.  Take as directed.
 -shower everyday and wash the draining area of your left breast 
with soap and let warm water run over it.
 -You may use an absorbent, clean dressing under your left 
breast and change it daily and as needed.
 
Followup Instructions:
___